US08703768B2
Step 1: Methyl 2-amino-5-(2-hydroxyethoxy)benzoate
2-Amino-5-(2-hydroxyethoxy)benzoic acid hydrochloride (0.209 g, 895 μmol; CAS 78299-60-2) was suspended in dichloromethane (10 ml) at r.t under an argon atmosphere. The reaction mixture was diluted with MeOH (3 ml). Then trimethylsilyldiazomethane solution (1.45 ml, 2.9 mmol; 2M in hexane) was added dropwise. The reaction mixture was stirred at r.t for 1 hr. The solvents were evaporated. The crude product was purified by silica gel chromatography using a n-heptane/EtOAc gradient to give the title compound (154 mg, 82%) as light yellow, waxy solid.

reactant | 2-Amino-5-(2-hydroxyethoxy)benzoic acid hydrochloride | 895 μmol, 0.209 g | Cl.NC1=C(C(=O)O)C=C(C=C1)OCCO
reactant | trimethylsilyldiazomethane | 2.9 mmol, 2M, 1.45 ml | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | MeOH | 3 ml | CO | CH4O
product | Methyl 2-amino-5-(2-hydroxyethoxy)benzoate | 154 mg, 82% | NC1=C(C(=O)OC)C=C(C=C1)OCCO | C10H13NO4
